US06017919
3-Hydroxyphthalic anhydride (1.0 g, 6.6 mmol) was dissolved in methanol (20 ml), and a catalytic amount of p-toluene sulfonic acid was added to this solution. The mixture was stirred with refluxing under heating for 5 hours, and concentrated under reduced pressure to give a crude product of dimethyl 3-hydroxyphthalate. The crude product of dimethyl 3-hydroxyphthalate was dissolved in DMF (20 ml), and potassium carbonate (6 g, 43 mmol) and n-amyl bromide (3 ml, 24 mmol) were added to this solution. The mixture was stirred at 90° C. for 1.5 hours, and solids were removed by filtration through Celite. The filtrate was concentrated under reduced pressure to give a crude product of dimethyl 3-pentyloxyphthalate. The crude product of dimethyl 3-pentyloxyphthalate was dissolved in methanol (10 ml), and a 1N aqueous sodium hydroxide solution (20 ml) was added to this solution. The mixture was stirred at 90° C. for 2 hours, and a 3N aqueous hydrochloric acid solution (15 ml) was added to the reaction nixture. The mixture was extracted with ethyl acetate (30 ml×3), and washed with saturated brine (20 ml). The organic layer was dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure to give a crude product of 3-pentyloxyphthalic acid. The crude product of 3-pentyloxyphthalic acid was dissolved in acetic acid (20 ml), and a mine hydrochloride (1.0 g, 7.3 mmol) was added. The mixture was stirred at 90° C. for 2 hours and concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (hexane/ethyl acetate=4/1) to give N-2-(4-hydroxyphenyl)ethyl-3-pentyloxyphthalimide (0.8 g, 2.3 mmol, 35%) as colorless crystals.

reactant | dimethyl 3-pentyloxyphthalate | C(CCCC)OC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C15H20O5
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3N, 15 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 3-pentyloxyphthalic acid | C(CCCC)OC1=C(C(C(=O)O)=CC=C1)C(=O)O | C13H16O5
